US04549988
8-Chloro-5-(1-amino-2-propyn-3-yl)-1-(2-fluorophenyl)-3H-2-benzazepine dihydrochloride
A mixture of 1.3 g (2.9 mmoles) of 8-chloro-5-(1-phthalimido-2-propyn-3-yl)-1-(2-fluorophenyl)-3H-2-benzazepine, 50 ml of ethanol and 10 ml of 40% aqueous methylamine was stirred at room temperature for 1 hr. The mixture was poured into ice water and extracted with ether. The ether solution was dried over anhydrous sodium sulfate and concentrated at reduced pressure to dryness. The residue was dissolved in an excess of ethanolic hydrogen chloride and the resulting salt precipitated by the addition of ether to give an off-white solid, mp 211°-216° C. Recrystallization from a mixture of methanol and ether gave gray needles, mp 216°-218° C. dec.

reactant | 8-chloro-5-(1-phthalimido-2-propyn-3-yl)-1-(2-fluorophenyl)-3H-2-benzazepine | 2.9 mmoles, 1.3 g | ClC1=CC2=C(C(=CCN=C2C2=C(C=CC=C2)F)C#CCN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C27H16ClFN2O2
reactant | methylamine | 10 ml | CN | CH5N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 8-Chloro-5-(1-amino-2-propyn-3-yl)-1-(2-fluorophenyl)-3H-2-benzazepine dihydrochloride | Cl.Cl.ClC1=CC2=C(C(=CCN=C2C2=C(C=CC=C2)F)C#CCN)C=C1 | InChI=1S/C19H14ClFN2.2ClH/c20-14-7-8-15-13(4-3-10-22)9-11-23-19(17(15)12-14)16-5-1-2-6-18(16)21;;/h1-2,5-9,12H,10-11,22H2;2*1H
